US09326987B2
4-Bromo-2-chloro-1H-indole
4-Bromo-2-chloro-1-[(4-methylphenyl)sulfonyl]-1H-indole (215 mg), IPA (2.5 ml) and 2 M NaOH (aq) (2.5 ml) were mixed in a microwave vial and heated in the microwave for 30 min at 120° C. The reaction was acidified using 2M HCl (aq) and then extracted with DCM, which was passed through a hydrophobic frit, then evaporated to dryness. The residue was triturated with methanol which was then evaporated to afford the title compound, 112 mg.

reactant | 4-Bromo-2-chloro-1-[(4-methylphenyl)sulfonyl]-1H-indole | 215 mg | BrC1=C2C=C(N(C2=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C)Cl | C15H11BrClNO2S
reactant | NaOH | 2 M, 2.5 ml | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | IPA | 2.5 ml | CC(C)O | C3H8O
product | 4-Bromo-2-chloro-1H-indole | BrC1=C2C=C(NC2=CC=C1)Cl | C8H5BrClN
